US06900220B2
A mixture of (3-tributylstannyl-pyridin-4-yl)-carbamic acid tert-butyl ester (0.7 g, 1.44 mmol), 5-bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (0.45 g, 1.44 mmol), tris(dibenzylideneacetone)dipalladium(O) (0.066 g, 0.072 mmol) and 2-(cyclohexylphosphino)biphenyl (0.075 g, 0.216 mmol), in toluene was heated with stirring to 100° C. for 24 h. The solvent was evaporated and the residue purified by flash chromatography eluting with 50% ethyl acetate in hexanes to yield 0.18 g 5-(4-tert-butoxycarbonylamino-pyridin-3-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester).

reactant | (3-tributylstannyl-pyridin-4-yl)-carbamic acid tert-butyl ester | 1.44 mmol, 0.7 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)[Sn](CCCC)(CCCC)CCCC)=O
reactant | 5-bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.44 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)Br | C14H18BrNO2
reactant | 2-(cyclohexylphosphino)biphenyl | 0.216 mmol, 0.075 g | C1(CCCCC1)PC1=C(C=CC=C1)C1=CC=CC=C1 | C18H21P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(O) | 0.072 mmol, 0.066 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 5-(4-tert-butoxycarbonylamino-pyridin-3-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.18 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)C=1C=NC=CC1NC(=O)OC(C)(C)C | C24H31N3O4
